US08084448B2
5-(4-Cyclohexylmethyl-2-hydroxyphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one
The title compound is prepared from 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one and iodomethylcyclohexane analogous to Example 57, steps B, C and D: (M−1)−=323. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.89 (d, J=11.37 Hz, 2 H) 1.09-1.19 (m, 2 H) 1.14 (d, J=9.60 Hz, 1 H) 1.44 (dd, J=14.78, 3.66 Hz, 1 H) 1.62 (d, J=10.86 Hz, 5 H) 2.34 (d, J=7.07 Hz, 2 H) 4.00 (s, 2 H) 6.54 (dd, J=7.96, 1.89 Hz, 1 H) 6.61 (d, J=1.77 Hz, 1 H) 7.25 (d, J=8.08 Hz, 1 H) 8.85 (s, 1 H)

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | iodomethylcyclohexane | ICC1CCCCC1 | C7H13I
product | 5-(4-Cyclohexylmethyl-2-hydroxyphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C1(CCCCC1)CC1=CC(=C(C=C1)N1CC(NS1(=O)=O)=O)O | C15H20N2O4S
